US04883815
9.00 g (0.042 mol) of 6,7-dichloro-3,4-dihydro-2(1H)-naphthalenone and 0.3 g of p-toluenesulfonic acid are dissolved in 200 ml of pyridine, 3.5 ml (0.042 mol) of pyrrolidine are added dropwise and the mixture is boiled under reflux for 2 hours. Distillation of the solvent in a vacuum, addition of 200 ml of ether and filtering off the crystals formed yields 1-(6,7-dichloro-3,4-dihydro-2naphthyl)pyrrolidine with melting point 141°-142°.

reactant | 6,7-dichloro-3,4-dihydro-2(1H)-naphthalenone | 0.042 mol, 9.00 g | ClC=1C=C2CCC(CC2=CC1Cl)=O | C10H8Cl2O
reactant | p-toluenesulfonic acid | 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | pyrrolidine | 0.042 mol, 3.5 ml | N1CCCC1 | C4H9N
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 1-(6,7-dichloro-3,4-dihydro-2naphthyl)pyrrolidine | ClC=1C=C2CCC(=CC2=CC1Cl)N1CCCC1 | C14H15Cl2N
